US07449582B2
Step A: Preparation of 2-(2,6-dichloro-3-nitro-phenyl)-N-(2-formyl-phenyl)-acetamide
A solution of (2,6-dichloro-3-nitro-phenyl)-acetic acid (0.90 g, 3.35 mmol) in thionyl chloride (15 mL) is refluxed for one hour. The solvent is removed by concentration and dry toluene is added to thoroughly remove thionyl chloride. To the solution of acid chloride in dry dichloromethane (30 mL) is added (drop-wise) a solution of 2-aminobenzaldehyde (0.365 g, 3.02 mmol) in dichloromethane (5.0 mL). The mixture is stirred at room temperature for 2 hours. The reaction mixture is diluted with EtOAc and washed with saturated K2CO3 and brine. The organic layer is dried, filtered and concentrated to give crude product (0.94 g, 88.6%).

reactant | (2,6-dichloro-3-nitro-phenyl)-acetic acid | 3.35 mmol, 0.90 g | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)CC(=O)O | C8H5Cl2NO4
reactant | 2-aminobenzaldehyde | 3.02 mmol, 0.365 g | NC1=C(C=O)C=CC=C1 | C7H7NO
solvent | thionyl chloride | 15 mL | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5.0 mL | ClCCl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(2,6-dichloro-3-nitro-phenyl)-N-(2-formyl-phenyl)-acetamide | 0.94 g, 88.6% | ClC1=C(C(=CC=C1[N+](=O)[O-])Cl)CC(=O)NC1=C(C=CC=C1)C=O | C15H10Cl2N2O4
